US07763608B2
To a solution of 4-chloro-1-methyl-1H-pyrrole-2-carboxylic acid (55 mg, 0.34 mmol) and triethylamine (0.100 mL, 0.72 mmol) in DMF (2 mL), BOP (217 mg, 0.49 mmol) was added. After 5 min of stirring, a solution of 4-aminomethylimidazole II-2 (100 mg, 1.03 mmol) in DMF (2 mL) was added. After being stirred at room temperature overnight, the mixture was purified by HPLC to give N-((1H-imidazol-4-yl)methyl)-4-chloro-1-methyl-1H-pyrrole-2-carboxamide (81 mg).

reactant | 4-chloro-1-methyl-1H-pyrrole-2-carboxylic acid | 0.34 mmol, 55 mg | ClC=1C=C(N(C1)C)C(=O)O | C6H6ClNO2
reactant | triethylamine | 0.72 mmol, 0.100 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.49 mmol, 217 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-aminomethylimidazole | NCC=1N=CNC1 | C4H7N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-((1H-imidazol-4-yl)methyl)-4-chloro-1-methyl-1H-pyrrole-2-carboxamide | 81 mg | N1C=NC(=C1)CNC(=O)C=1N(C=C(C1)Cl)C | C10H11ClN4O
